US05856556
(3S, 4R)-3-[(R)-1-t-Butyldimethylsilyloxyethyl]-1-(p-nitrobenzyloxyethyl)-4-([(S)-1-(p-nitrobenzyloxycarbonyl)pyrrolidin-3-ylthio]carbonylmethyl)-2-azetidinone.
57.7 mg (0.105 mmole) of (3S, 4R)-3-[(R)-1-t-butyldimethylsilyloxyethyl]-4-([(S)-1-(p-nitrobenzyloxycarbonyl)pyrrolidin-3-ylthio]carbonylmethyl)-2-azetidinone and 33 mg (0.33 mmole) of triethylamine were dissolved in 3 ml of methylene chloride. To the solution were added 73 mg (0.30 mmole) of p-nitrobenzyloxyethyl chloride, with ice-cooling under a nitrogen atmosphere. The mixture was stirred for 1 hour and then poured into a 0.1M phosphate buffer solution (pH 7.2). The organic layer was separated and washed with a saturated aqueous solution of sodium chloride. The solvent was distilled off and the residue was purified by column chromatography through 1.3 g of silica gel, to give 67.8 mg (yield 83%) of the desired product as an oil from the fraction eluted with mixtures of benzene and ethyl acetate in volume ratios from 12:1 to 4:1.

reactant | (3S, 4R)-3-[(R)-1-t-butyldimethylsilyloxyethyl]-4-([(S)-1-(p-nitrobenzyloxycarbonyl)pyrrolidin-3-ylthio]carbonylmethyl)-2-azetidinone | 0.105 mmole, 57.7 mg | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1CC(=O)S[C@@H]1CN(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C25H37N3O7SSi
reactant | triethylamine | 0.33 mmole, 33 mg | C(C)N(CC)CC | C6H15N
reactant | p-nitrobenzyloxyethyl chloride | 0.30 mmole, 73 mg | [N+](=O)([O-])C1=CC=C(COCCCl)C=C1 | C9H10ClNO3
reactant | phosphate | 0.1M, pH 7.2 | P(=O)([O-])([O-])[O-]
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | (3S, 4R)-3-[(R)-1-t-Butyldimethylsilyloxyethyl]-1-(p-nitrobenzyloxyethyl)-4-([(S)-1-(p-nitrobenzyloxycarbonyl)pyrrolidin-3-ylthio]carbonylmethyl)-2-azetidinone | 67.8 mg, yield 83% | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N([C@@H]1CC(=O)S[C@@H]1CN(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CCOCC1=CC=C(C=C1)[N+](=O)[O-])=O | C34H46N4O10SSi
